US07399759B2
2-[4-(Methylsulfinyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one
2-[4-(Methylthio)-2-pyridyl]-4H-1,3-benzothiazine-4-one (0.28 g, 1.00 mmol) was dissolved in chloroform (50 ml), and a solution of 3-chloroperbenzoic acid (Ca. 77%, 0.23 g, 1.00 mmol) in chloroform (10 ml) was added dropwise thereto. The mixture was stirred at room temperature for 1 hr. The solvent was evaporated, and the residue was recrystallized from ethanol to give the titled compound (0.23 g, 77%) as pale yellow crystals.

reactant | 2-[4-(Methylthio)-2-pyridyl]-4H-1,3-benzothiazine-4-one | 1.00 mmol, 0.28 g | CSC1=CC(=NC=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C14H10N2OS2
reactant | 3-chloroperbenzoic acid | 1.00 mmol, 0.23 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[4-(Methylsulfinyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one | 0.23 g, 77% | CS(=O)C1=CC(=NC=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C14H10N2O2S2
